US06384051B1
4-(3-Hydroxy-4-methyl-phenylamino)-7-methoxy-quinoline-3-carbonitrile
To a suspension of 200 mg (0.91 mmol) of 4-chloro-7-methoxy-3-quinolinecarbonitrile and 135.5 mg (1.10 mmol) of 5-amino-o-cresol in 10 mL of 2-ethoxy ethanol was added 105.6 mg (0.91 mmol) of pyridine hydrochloride. The resulting reaction mixture was refluxed for 1 hr, and then the solvent was removed to give a residue. To the residue was added about 30 mL of water and neutralized to pH 7-8 by addition of diluted sodium carbonate solution. The precipitate was collected by filtration and washed with water and ether. After drying in vacuo, this afforded 277 mg (99%) of the product as a yellow solid, m.p.>250° C., mass (electrospray, m/e): M+H 305.9.

reactant | 4-chloro-7-methoxy-3-quinolinecarbonitrile | 0.91 mmol, 200 mg | ClC1=C(C=NC2=CC(=CC=C12)OC)C#N | C11H7ClN2O
reactant | 5-amino-o-cresol | 1.10 mmol, 135.5 mg | NC1=CC=C(C(=C1)O)C | C7H9NO
reactant | pyridine hydrochloride | 0.91 mmol, 105.6 mg | Cl.N1=CC=CC=C1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 2-ethoxy ethanol | 10 mL | C(C)OCCO | C4H10O2
solvent | water | about 30 mL | O | H2O
product | 4-(3-Hydroxy-4-methyl-phenylamino)-7-methoxy-quinoline-3-carbonitrile | OC=1C=C(C=CC1C)NC1=C(C=NC2=CC(=CC=C12)OC)C#N | C18H15N3O2
